US08227377B2
(Production of Amorphous Aluminum Silicate)
A sodium orthosilicate aqueous solution in the amount of 5000 ml diluted with purified water was prepared so that the Si concentration became 525 mmol/L. Aside from this, aluminum chloride was dissolved in purified water, and 5000 ml of aqueous solution having an Al concentration of 625 mmol/L was prepared. Subsequently, the sodium orthosilicate aqueous solution was mixed with the aluminum chloride aqueous solution, and stirred with a magnetic stirrer. The silicon/aluminum ratio in this case was 0.84. Moreover, 335 ml of 1N sodium hydroxide aqueous solution was dripped into the mixed solution to obtain a pH of 6.5. This solution was evenly separated in three 4 L containers, and heated in a constant temperature bath for seven days at 98° C. Thus, an aqueous solution containing amorphous aluminum silicate substance having a peak in the vicinity of −78 ppm and −87 ppm in a 29Si solid NMR spectrum was obtained. After cooling, the aqueous solution was cleaned three times with centrifugation, and thereafter dried at 60° C.

reactant | sodium orthosilicate | [Si]([O-])([O-])([O-])[O-].[Na+].[Na+].[Na+].[Na+]
reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | silicon aluminum | [Si].[Al]
reactant | sodium hydroxide | 1N, 335 ml | [OH-].[Na+]
solvent | water | O | H2O
product | Aluminum Silicate | [Si]([O-])([O-])([O-])[O-].[Al+3].[Si]([O-])([O-])([O-])[O-].[Si]([O-])([O-])([O-])[O-].[Al+3].[Al+3].[Al+3] | InChI=1S/4Al.3O4Si/c;;;;3*1-5(2,3)4/q4*+3;3*-4
